US06201027B1
3-Chloro-4-methylsulfonylbenzaldehyde
To a solution containing 1.0 g of 4,3-dichlorobenzaldehyde in 45 ml of DMSO was added 1.93 g of methanesulfinicacid sodium salt with stirring at 90° C. The solution was stirred for 6 hours at 90° C. and then poured into water. Sodiumhydrogencarbonate was added and the product was extracted with ethyl acetate. The extract was evaporated to dryness in vacuo. The residue was triturated with 2-propanol, yield 1.06 g. 1H-NMR (DMSO-d6,400 MHz): 3.45 (s, 3 H, CH3), 8.09-8.27 (m, 3 H, Ar), 10.01 (d, 1 H, CHO).

reactant | 4,3-dichlorobenzaldehyde | 1.0 g | ClC1=C(C=C(C=O)C=C1)Cl | C7H4Cl2O
reactant | methanesulfinicacid sodium salt | 1.93 g | [Na+].CS(=O)[O-]
reactant | water | O | H2O
solvent | DMSO | 45 ml | CS(=O)C | C2H6OS
product | 3-Chloro-4-methylsulfonylbenzaldehyde | ClC=1C=C(C=O)C=CC1S(=O)(=O)C | C8H7ClO3S
